US08309718B2
Step 4. 1-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-4-((5-methylisoxazol-3-yl)oxy)cyclohexylacetonitrile
To a solution of 1-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-4-hydroxycyclohexylacetonitrile (0.6 g, 0.00189 mol) in tetrahydrofuran (9 mL) was added 5-methylisoxazol-3-ol (0.22 g, 0.0023 mol), triphenylphosphine (0.594 g, 0.00226 mol), followed by diisopropyl azodicarboxylate (0.446 mL, 0.00226 mol). The mixture was heated at 70° C. overnight. After evaporating to dryness, the residue was purified on silica gel, eluting with 0 to 80% EtOAc in hexanes, to give the desired product. LCMS (M+H) 399.1.

reactant | 1-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-4-hydroxycyclohexylacetonitrile | 0.00189 mol, 0.6 g | ClC1=NC=CC(=N1)C=1C=NN(C1)C1(CCC(CC1)O)CC#N | C15H16ClN5O
reactant | 5-methylisoxazol-3-ol | 0.0023 mol, 0.22 g | CC1=CC(=NO1)O | C4H5NO2
reactant | triphenylphosphine | 0.00226 mol, 0.594 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.00226 mol, 0.446 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
product | 1-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-4-((5-methylisoxazol-3-yl)oxy)cyclohexylacetonitrile | ClC1=NC=CC(=N1)C=1C=NN(C1)C1(CCC(CC1)OC1=NOC(=C1)C)CC#N | C19H19ClN6O2
